US03941803
In the manner given in Example 1, 5-bromo-2-(imidazol-1-yl)benzophenone is heated in a bomb with 37% aqueous formaldehyde solution to give 5-bromo-2-[2-(hydroxymethyl)imidazol-1-yl]benzophenone.

reactant | 5-bromo-2-(imidazol-1-yl)benzophenone | BrC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C=NC=C1 | C16H11BrN2O
reactant | formaldehyde | C=O | CH2O
product | 5-bromo-2-[2-(hydroxymethyl)imidazol-1-yl]benzophenone | BrC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NC=C1)CO | C17H13BrN2O2
